US05998666
N-cyclohexyl-5-[{2-(2-methoxyphenoxy)ethyl}amino]pentanamide (I, Ar=2-methoxyphenyl, R=cyclohexyl)
A catalyst composed of palladium on 10% moist carbon (1.5 g) is added to a solution of N-cyclohexyl-5-[benzyl{2-(2-methoxyphenoxy)ethyl}amino]pentan-amide (3 g, 6.8 mmole) in glacial acetic acid (30 ml) and the mixture is hydrogenated for 2 hours at 20° C. The catalyst is removed by filtration and the solvent is evaporated under reduced pressure. The residue obtained in the form of a salt of acetic acid is taken up in dichloromethane (50 ml) and the base is liberated by treatment with a saturated solution of sodium hydrogen carbonate. The organic phase is collected, washed with water, dried over magnesium sulfate and the solvent is evaporated under reduced pressure. The expected product is obtained in the form of a white powder after crystallisation in diethylether (0.95 g, 40%).

reactant | N-cyclohexyl-5-[benzyl{2-(2-methoxyphenoxy)ethyl}amino]pentan-amide | 6.8 mmole, 3 g | C1(CCCCC1)NC(CCCCN(CCOC1=C(C=CC=C1)OC)CC1=CC=CC=C1)=O | C27H38N2O3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
catalyst | palladium | [Pd] | Pd
product | N-cyclohexyl-5-[{2-(2-methoxyphenoxy)ethyl}amino]pentanamide | C1(CCCCC1)NC(CCCCNCCOC1=C(C=CC=C1)OC)=O | C20H32N2O3
